US06515011B2
1-((2R)-2-Hydroxy-3-methylbutanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide
1-((2R)-Hydroxy-3-methylbutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide from the previous step (0.26 g, 0.56 mmol, HPLC RT=3.21 min) was dissolved in EtOAc (20 mL) and cooled with stirring to 0° C. HCl gas was bubbled through the solution for 10 minutes. After 2 hours at 0° C., HPLC analysis indicated complete consumption of the starting material, and the solvent was removed under reduced pressure. The resulting solid was triturated in EtOAc, filtered, and dried in vacuo to give the hydrochloride salt of the title compound as a white solid (TLC Rf=0.3 (90:10:0.5 CH2Cl2:MeOH:NH4OH); HPLC RT=2.38 min, method A; LC-MS m/z=368; 1H NMR, 400 MHz, DMSO-d6, ˜3.5:1 mixture of rotamers, selected signals: 8.84 ppm (minor) and 8.64 ppm (major) (t, J=6 Hz, 1H), 0.87, 0.83 ppm (major) and 0.74, 0.58 ppm (minor) (two doublets, J=7 Hz, 3H)).

reactant | 1-((2R)-Hydroxy-3-methylbutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | O[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)C(C)C | C23H34ClN3O5
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-((2R)-2-Hydroxy-3-methylbutanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | O[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1)C(C)C | C18H26ClN3O3
